US07687664B2
5-Bromo-2,3-dihydrobenzo[b]furan-7-carbaldehyde (11.42 g), was dissolved in 50 ml of tetrahydrofuran and 50 ml of ethanol, then 2 g of sodium borohydride was added thereto, and the mixture was stirred overnight at room temperature. 1 N hydrochloric acid was added to the reaction mixture which was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed, to give (5-bromo-2,3-dihydrobenzo[b]furan-7-yl)methanol. This product was treated in the same way as Production Example 90b) to give 12.6 g of the title compound.

reactant | 5-Bromo-2,3-dihydrobenzo[b]furan-7-carbaldehyde | 11.42 g | BrC1=CC2=C(OCC2)C(=C1)C=O | C9H7BrO2
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (5-bromo-2,3-dihydrobenzo[b]furan-7-yl)methanol | BrC1=CC2=C(OCC2)C(=C1)CO | C9H9BrO2
